US04929741
A solution of 8.5 g (23 mmol) of 2-(2-methoxyethoxy)-ethyl 4-hydroxy-4-(3,4,5-trimethoxyphenyl)-2-butynoate in 100 ml of methylene chloride was added dropwise at 0° to a suspension of 60 g (0.69 mol) of manqanese dioxide in 150 ml of methylene chloride. The reaction mixture was stirred at 0° for 2 hours, filtered over magnesium sulphate and concentrated. The residue was purified by flash chromatography on 700 g of silica gel (elution agent methylene chloride/ether 4:1) and subsequently crystallized from ether/hexane. There was obtained 2-(2-methoxyethoxy)ethyl 3-(3,4,5-trimethoxybenzoyl)propiolate of melting point 33°-34°.

reactant | 2-(2-methoxyethoxy)-ethyl 4-hydroxy-4-(3,4,5-trimethoxyphenyl)-2-butynoate | 23 mmol, 8.5 g | OC(C#CC(=O)OCCOCCOC)C1=CC(=C(C(=C1)OC)OC)OC | C18H24O8
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-methoxyethoxy)ethyl 3-(3,4,5-trimethoxybenzoyl)propiolate | COC=1C=C(C(=O)C#CC(=O)OCCOCCOC)C=C(C1OC)OC | C18H22O8
